US07872026B2
600 mg (2.24 mmol) of N-(3-bromopropyl)phthalimide and 310 mg (2.24 mmol) of potassium carbonate are added to a solution of 800 mg (1.86 mmol) of ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate in 50 ml of acetone. The reaction mixture is stirred overnight at reflux. The reaction is stopped by adding water, and is then extracted with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off. The residue is precipitated from a small amount of ethyl acetate. It is filtered off and 700 mg of ethyl 4′-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propoxy]-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate are obtained in the form of a white solid (yield=61%).

reactant | N-(3-bromopropyl)phthalimide | 2.24 mmol, 600 mg | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 2.24 mmol, 310 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 1.86 mmol, 800 mg | OC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C29H32O3
reactant | water | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | ethyl 4′-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propoxy]-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 700 mg | O=C1N(C(C2=CC=CC=C12)=O)CCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C40H41NO5
